US05459138
Stage A: 2-Hydroxy-5-methyl-3-nitropyridine
25 g of 2-amino-5-methylpyridine are dissolved in 50 cm3 of concentrated sulfuric acid in a 600 cm3 round- bottomed flask. A mixture consisting of 40 cm3 of concentrated nitric acid and 40 cm3 of concentrated sulfuric acid is progressively added. The reaction mixture heats up with formation of foam. The temperature is maintained constant at 130° C. throughout the duration of the addition of the acid. The colored solution is then poured onto 300 g of ice and the pH is brought to around 3-4 by addition of aqueous ammonia. After standing in a refrigerator, the precipitate obtained is collected on a filter, washed with water and dried. It is recrystallized from hot water.

reactant | 2-amino-5-methylpyridine | 25 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | nitric acid | 40 cm3 | [N+](=O)(O)[O-] | HNO3
reactant | ammonia | N | H3N
reactant | sulfuric acid | 50 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 40 cm3 | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-5-methyl-3-nitropyridine | OC1=NC=C(C=C1[N+](=O)[O-])C | C6H6N2O3
